US09101616B2
Step-2: 2,2,2-trifluoro-1-(1-methyl-6-(trifluoromethyl)-1H-indol-3-yl)ethanone
To a mixture of 2,2,2-trifluoro-1-[6-(trifluoromethyl)-1H-indol-3-yl]ethanone (200 mg, 0.71 mmol) and potassium carbonate (246 mg, 1.8 mmol) in DMF (2 mL) was added iodomethane (0.067 mL, 1.1 mmol) at room temperature. After stirring at the same temperature for 2 hours, the mixture was poured into water, and the aqueous phase was extracted with EtOAc (ethyl acetate)-hexane (2:1, twice). The combined organic layers were dried over magnesium sulfate and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with hexane/ethyl acetate (4:1 (v/v)) to give 195 mg (93% yield) of the title compound as a pale brown solid:

reactant | 2,2,2-trifluoro-1-[6-(trifluoromethyl)-1H-indol-3-yl]ethanone | 0.71 mmol, 200 mg | FC(C(=O)C1=CNC2=CC(=CC=C12)C(F)(F)F)(F)F | C11H5F6NO
reactant | potassium carbonate | 1.8 mmol, 246 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 1.1 mmol, 0.067 mL | IC | CH3I
reactant | water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2,2,2-trifluoro-1-(1-methyl-6-(trifluoromethyl)-1H-indol-3-yl)ethanone | 195 mg, 93% yield | FC(C(=O)C1=CN(C2=CC(=CC=C12)C(F)(F)F)C)(F)F | C12H7F6NO
